US05318966
A mixture of 1.10 g (0.004 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[e]indol-9-ol hydrochloride, 0.61 g (0.005 mol) of dimethylcarbamoyl chloride, 1.4 ml (0.01 mol) of triethylamine and 0.61 g (0.005 mol) of 4-dimethylaminopyridine in 40 ml of toluene was boiled under reflux for 4 hours and then poured into a saturated aqueous sodium hydrogen carbonate solution, whereupon the mixture was extracted with methylene chloride. The extract was dried with sodium sulphate, filtered and evaporated in a vacuum. The residue was purified by chromatography over silica gel with methylene chloride/methanol (99:1) and over aluminum oxide with methylene chloride and dissolved in ethanol. After the addition of ethanolic HCl the solvent was distilled off. There were obtained 1.20 g (86%) of rac-cis-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-9-yl dimethylcarbamate hydrochloride as a foam.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[e]indol-9-ol hydrochloride | 0.004 mol, 1.10 g | Cl.C(CC)N1CC[C@@H]2C3=C(CC[C@H]12)C=CC=C3O
reactant | dimethylcarbamoyl chloride | 0.005 mol, 0.61 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 0.01 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.005 mol, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-9-yl dimethylcarbamate hydrochloride | 1.20 g, 86% | Cl.CN(C(OC1=CC=CC2=C1[C@H]1CCN[C@H]1CC2)=O)C | InChI=1S/C15H20N2O2.ClH/c1-17(2)15(18)19-13-5-3-4-10-6-7-12-11(14(10)13)8-9-16-12;/h3-5,11-12,16H,6-9H2,1-2H3;1H/t11-,12-;/m0./s1
